US06040309
Ethyl 6-(benzyloxy)-3-(phenylsulfinyl)benzo[b]thiophene2-carboxylate
Hydrogen peroxide in water (0.15 ml of 30% w/v, 1.3 mmol) was added to a solution of ethyl 6-(benzyloxy)-3-(phenylsulfanyl)benzo[b]thiophene-2-carboxylate (Example 17--500 mg, 1.2 mmol) in acetic acid (5 ml) and tetrahydrofuran (5 ml). The mixture was heated to 100° C. for 3 hours. The solvents were removed by evaporation under reduced pressure, and the residue was partitioned between diethyl ether and aqueous sodium bicarbonate solution. The organic layer was separated, dried (magnesium sulfate) and concentrated under vacuo, and the residue was crystallised from dichloromethane and diisopropyl ether to give the title compound as a colourless solid (455 mg).

reactant | Hydrogen peroxide | OO | H2O2
reactant | water | 1.3 mmol, 0.15 ml | O | H2O
reactant | ethyl 6-(benzyloxy)-3-(phenylsulfanyl)benzo[b]thiophene-2-carboxylate | 1.2 mmol, 17--500 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2SC2=CC=CC=C2)C(=O)OCC)C1 | C24H20O3S2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Ethyl 6-(benzyloxy)-3-(phenylsulfinyl)benzo[b]thiophene2-carboxylate | 455 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2S(=O)C2=CC=CC=C2)C(=O)OCC)C1 | C24H20O4S2
